US06992103B2
2-Methoxy-6-(2-oxopyrrolidin-1-yl)pyridine-4-carboxylic acid (D58)
t-Butyl 2-methoxy-6-(2-oxopyrrolidin-1-yl)pyridine-4-carboxylate (D57) (0.27 g) was stirred overnight in a dioxan solution of HCl (4M; 10 mL). The solution was evaporated to dryness and dissolved in sat. aq. sodium bicarbonate. The basic aqueous solution was washed twice with ether and was then acidified to pH4 with citric acid solution (10% aq.), saturated with NaCl and extracted three times with ethyl acetate. The combined extracts were washed with brine, dried and evaporated to a solid which was triturated with water, collected by filtration and dried at 50° C. in vacuo (silica gel desiccant). The title compound (D58) was obtained as an off-white solid (0.141 g).

reactant | t-Butyl 2-methoxy-6-(2-oxopyrrolidin-1-yl)pyridine-4-carboxylate | 0.27 g | COC1=NC(=CC(=C1)C(=O)OC(C)(C)C)N1C(CCC1)=O | C15H20N2O4
reactant | HCl | 4M, 10 mL | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-Methoxy-6-(2-oxopyrrolidin-1-yl)pyridine-4-carboxylic acid | COC1=NC(=CC(=C1)C(=O)O)N1C(CCC1)=O | C11H12N2O4
